US09290504B2
(S)-Benzyl 2-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate (20.54 mmol, 8.95 g) was suspended in 2-propanol (113 ml) in a pressure vessel. 2-propanol (50 ml) was cooled to −78° C. in a pre-weighed flask (with stopper and stirring bar) and ammonia gas (646 mmol, 11 g) was led through for 15 minutes. The resulting solution was added to the suspension in the pressure vessel. The vessel was closed and stirred at room temperature and a slight increase in pressure was observed. Then the suspension was heated to 110° C. which resulted in an increased pressure to 4.5 bar. The clear solution was stirred at 110° C., 4.5 bar overnight. After 18 h the pressure remained 4 bar. The reaction mixture was concentrated in vacuum, the residue was suspended in ethyl acetate and subsequently washed with water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, saturated sodium chloride solution, dried over sodium sulfate and concentrated to give 7.35 g of (S)-benzyl 2-(8-amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate (86%).

reactant | (S)-Benzyl 2-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate | 20.54 mmol, 8.95 g | BrC=1N=C(N2C1C(=NC=C2)Cl)[C@H]2N(CCC2)C(=O)OCC2=CC=CC=C2 | C18H16BrClN4O2
reactant | ammonia | 646 mmol, 11 g | N | H3N
solvent | 2-propanol | 113 ml | CC(C)O | C3H8O
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | (S)-benzyl 2-(8-amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate | 7.35 g, 86% | NC=1C=2N(C=CN1)C(=NC2Br)[C@H]2N(CCC2)C(=O)OCC2=CC=CC=C2 | C18H18BrN5O2
